US05917088
Preparation of Calcium 5-Octanoylsalicylate
39.6 g of 5-octanoylsalicylic acid (0.15 mol) in 300 ml of isopropanol and 150 ml of water were introduced into a 500 ml round-bottomed flask. 7.5 g of calcium carbonate (0.075 mol) were then added portionwise. The mixture was left stirring at room temperature for 3 hours and was then concentrated to dryness under vacuum on a rotary evaporator.

reactant | 5-octanoylsalicylic acid | 0.15 mol, 39.6 g | C(CCCCCCC)(=O)C1=CC=C(C(C(=O)O)=C1)O | C15H20O4
reactant | calcium carbonate | 0.075 mol, 7.5 g | C([O-])([O-])=O.[Ca+2]
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
solvent | water | 150 ml | O | H2O
product | Calcium 5-Octanoylsalicylate | C(CCCCCCC)(=O)C1=CC=C(C(C(=O)[O-])=C1)O.[Ca+2].C(CCCCCCC)(=O)C1=CC=C(C(C(=O)[O-])=C1)O | InChI=1S/2C15H20O4.Ca/c2*1-2-3-4-5-6-7-13(16)11-8-9-14(17)12(10-11)15(18)19;/h2*8-10,17H,2-7H2,1H3,(H,18,19);/q;;+2/p-2
